US07723336B2
Chloroacetaldehyde (2.0 mL, 31.5 mmol) was added to a solution of crude 4-bromo-6-chloro-5-phenylpyridazin-3-amine (0.193 g, 0.676 mmol) from 1b in EtOH (5.0 mL). The mixture was heated in a sealed tube at 118° C. for 5 h. After cooling to room temperature, the reaction mixture was concentrated in vacuo, and suspended in acetone/Et2O (1:1, 3 mL), filtered, and washed with Et2O to give 8-bromo-6-chloro-7-phenylimidazo[1,2-b]pyridazine HCl salt (0.147 g, >94% purity).

reactant | Chloroacetaldehyde | 31.5 mmol, 2.0 mL | ClCC=O | C2H3ClO
reactant | 4-bromo-6-chloro-5-phenylpyridazin-3-amine | 0.676 mmol, 0.193 g | BrC1=C(N=NC(=C1C1=CC=CC=C1)Cl)N | C10H7BrClN3
solvent | EtOH | 5.0 mL | CCO | C2H6O
product | 8-bromo-6-chloro-7-phenylimidazo[1,2-b]pyridazine HCl salt | 0.147 g, >94% | Cl.BrC=1C=2N(N=C(C1C1=CC=CC=C1)Cl)C=CN2 | InChI=1S/C12H7BrClN3.ClH/c13-10-9(8-4-2-1-3-5-8)11(14)16-17-7-6-15-12(10)17;/h1-7H;1H
